US06258812B1
1-(4-Bromoanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 0.384 g (1.5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine and 0.774 g (4.5 mmol) 4-bromoaniline is heated under nitrogen atmosphere for 1.5 h at 90° C. The process is then carried out as in Example 21. Title compound is obtained after recrystallization from acetate/hexane and drying under HV (8 h at 100° C.); m.p. 201-202° C.; ESI-MS: (M+H)+=391 und 393.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.5 mmol, 0.384 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-bromoaniline | 4.5 mmol, 0.774 g | BrC1=CC=C(N)C=C1 | C6H6BrN
product | 1-(4-Bromoanilino)-4-(4-pyridylmethyl)phthalazine | BrC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | C20H15BrN4
